US04374248
3-Hydroxy-4-{2-[(5-methyl-1H-imidazol-4-yl)methylthio]ethylamino}-1,2,5-thiadiazole 1,1-dioxide
When a methanolic solution of 3-{2-[(5-methyl-1H-imidazol-4-yl)methylthio]ethylamino}-4-methoxy-1,2,5-thiadiazole 1,1-dioxide [prepared by the procedure of Step A of Example 1] is treated with a solution of sodium hydroxide in methanol by the general procedure of Example 17, Step B, the title compound is produced, mp 263°-265° (dec).

reactant | 3-{2-[(5-methyl-1H-imidazol-4-yl)methylthio]ethylamino}-4-methoxy-1,2,5-thiadiazole 1,1-dioxide | CC1=C(N=CN1)CSCCNC1=NS(N=C1OC)(=O)=O | C10H15N5O3S2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 3-Hydroxy-4-{2-[(5-methyl-1H-imidazol-4-yl)methylthio]ethylamino}-1,2,5-thiadiazole 1,1-dioxide | OC1=NS(N=C1NCCSCC=1N=CNC1C)(=O)=O | C9H13N5O3S2
